US07705042B2
a) 1-Methyl-4-[3-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazine
The procedure of Example 4, step (b) was followed using 150 mg (0.589 mmol) of 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine (as prepared in the Example 12, step (a)) and 327 μL (2.95 mmol) of 1-methylpiperazine at 142° C. for 21 h to afford 189 mg (100%) of the title compound as a yellow semisolid: Mass spectrum (ESI, m/z): Calcd. for C16H24N4O2, 319.2 (M+H), found 319.1.

reactant | 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine | 0.589 mmol, 150 mg | ClC=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-] | C12H15ClN2O2
reactant | 1-methylpiperazine | 2.95 mmol, 327 μL | CN1CCNCC1 | C5H12N2
product | 1-Methyl-4-[3-(4-methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazine | 189 mg, 100% | CN1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])N1CCC(CC1)C | C17H26N4O2
